### PR TITLE
[Merged by Bors] - feat: characterize roots of unity in cyclotomic extensions

### PR DESCRIPTION
**Pull request by riccardobrasca**
We add `IsPrimitiveRoot.exists_pow_or_neg_mul_pow_of_isOfFinOrder`: If `x` is a root of unity (spelled as `IsOfFinOrder x`) in an `n`-th cyclotomic extension of `ℚ`, where `n` is odd, and `ζ` is a primitive `n`-th root of unity, then there exists `r < n` such that `x = ζ^r` or `x = -ζ^r`.

From flt-regular

- [x] depends on: #11235

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 1]
```diff
@@ -189,6 +189,108 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
     (zeta_spec n K L).minpoly_eq_cyclotomic_of_irreducible hirr, natDegree_cyclotomic]
 #align is_cyclotomic_extension.finrank IsCyclotomicExtension.finrank
 
+variable {L} in
+/-- If `L` contains both a primitive `p`-th root of unity and `q`-th root of unity, and
+`Irreducible (cyclotomic (lcm p q) K)` (in particular for `K = ℚ`), then the `finrank K L` is at
+least `(lcm p q).totient`. -/
+theorem _root_.IsPrimitiveRoot.lcm_totient_le_finrank [FiniteDimensional K L] {p q : ℕ}  {x y : L}
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:196]:
```suggestion
theorem _root_.IsPrimitiveRoot.lcm_totient_le_finrank [FiniteDimensional K L] {p q : ℕ} {x y : L}
```

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 2]
```diff
@@ -189,6 +189,108 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
+    (hx : IsPrimitiveRoot x p) (hy : IsPrimitiveRoot y q)
+    (hirr : Irreducible (cyclotomic (Nat.lcm p q) K)) :
+    (Nat.lcm p q).totient ≤ FiniteDimensional.finrank K L := by
+  rcases Nat.eq_zero_or_pos p with (rfl | hppos)
+  · simp
+  rcases Nat.eq_zero_or_pos q with (rfl | hqpos)
+  · simp
+  let k := Nat.lcm p q
+  have hkpos : 0 < k := Nat.pos_of_ne_zero (Nat.lcm_ne_zero hppos.ne' hqpos.ne')
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:205]: Would it be easier to make `k : PNat` directly?

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 3]
```diff
@@ -189,6 +189,108 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
+  let xu := (hx.isUnit hppos).unit
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:206]: And like this?
```suggestion
  obtain ⟨xu, rfl⟩ := hx.isUnit hppos
```

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 4]
```diff
@@ -189,6 +189,108 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
+is a primitive `n`-th root of unity, then there exist `r` such that `x = (-1)^r * ζ^r`. -/
+theorem _root_.IsPrimitiveRoot.exists_neg_pow_mul_pow_of_pow_eq_one [NumberField K]
+    [IsCyclotomicExtension {n} ℚ K] (hno : Odd (n : ℕ)) {ζ x : K} {k : ℕ+}
+    (hζ : IsPrimitiveRoot ζ n) (hx : x ^ (k : ℕ) = 1) : ∃ (r : ℕ), x = (-1) ^ r * ζ ^ r :=  by
+  have hnegζ : IsPrimitiveRoot (-ζ) (2 * n) := by
+    convert IsPrimitiveRoot.orderOf (-ζ)
+    rw [neg_eq_neg_one_mul, (Commute.all _ _).orderOf_mul_eq_mul_orderOf_of_coprime]
+    · simp [hζ.eq_orderOf]
+    · simp [← hζ.eq_orderOf, Nat.odd_iff_not_even.1 hno]
+  obtain ⟨l, hl, hlroot⟩ := (_root_.isRoot_of_unity_iff k.2 _).1 hx
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:284]: Does this need `_root_`?

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean (hunk 2 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean]: Yes, it's better, thanks!

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean (hunk 4 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:277]: It doesn't.

File: Mathlib/Data/Nat/Totient.lean [hunk 5]
```diff
@@ -276,6 +276,10 @@ theorem totient_eq_one_iff : ∀ {n : ℕ}, n.totient = 1 ↔ n = 1 ∨ n = 2
     exact ⟨fun h => not_even_one.elim <| h ▸ totient_even this, by rintro ⟨⟩⟩
 #align nat.totient_eq_one_iff Nat.totient_eq_one_iff
 
+theorem totient_le_one_dvd_two {a : ℕ} (han : 0 < a) (ha : a.totient ≤ 1) : a ∣ 2 := by
+  have : a.totient = 1 := by linarith [Nat.totient_pos han]
+  cases' Nat.totient_eq_one_iff.1 this with h h <;> simp [h]
```
Comment (MichaelStollBayreuth) [inline Mathlib/Data/Nat/Totient.lean:281]:
```suggestion
  rcases totient_eq_one_iff.mp <| le_antisymm ha <| totient_pos han with rfl | rfl <;> norm_num
```
(We are in namespace `Nat` here, I think, so the `Nat.` prefix can be removed.)

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 6]
```diff
@@ -189,6 +189,101 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
+      Subgroup.coeSubtype, Subgroup.coe_mk, ← orderOf_units]
+    exact hx.eq_orderOf.symm
+  have hyuord : orderOf (⟨yu, hymem⟩ : rootsOfUnity k L) = q := by
+    rw [← orderOf_injective (rootsOfUnity k L).subtype Subtype.coe_injective,
+      Subgroup.coeSubtype, Subgroup.coe_mk, ← orderOf_units, IsUnit.unit_spec]
+    exact hy.eq_orderOf.symm
+  obtain ⟨g : rootsOfUnity k L, hg⟩ := IsCyclic.exists_monoid_generator (α := rootsOfUnity k L)
+  obtain ⟨nx, hnx⟩ := hg ⟨xu, hxmem⟩
+  obtain ⟨ny, hny⟩ := hg ⟨yu, hymem⟩
+  have H : orderOf g = k := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:224]: We should add a lemma
```lean
lemma IsCyclic.exists_ofOrder_eq_natCard {G : Type*} [Group G] (h : IsCyclic G) : 
    ∃ g : G, orderOf g = Nat.card G := by
  obtain ⟨g, hg⟩ := h.exists_generator
  use g
  rw [← Nat.card_zpowers g, (Subgroup.eq_top_iff' (Subgroup.zpowers g)).mpr hg]
  exact (Nat.card_congr (Equiv.Set.univ G).symm).symm
```
for this purpose.

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 7]
```diff
@@ -189,6 +189,101 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
+    rw [mem_rootsOfUnity, ← Units.val_eq_one, Units.val_pow_eq_pow_val, IsUnit.unit_spec]
+    exact (hy.pow_eq_one_iff_dvd _).2 (Nat.dvd_lcm_right _ _)
+  have hxuord : orderOf (⟨xu, hxmem⟩ : rootsOfUnity k L) = p := by
+    rw [← orderOf_injective (rootsOfUnity k L).subtype Subtype.coe_injective,
+      Subgroup.coeSubtype, Subgroup.coe_mk, ← orderOf_units]
+    exact hx.eq_orderOf.symm
+  have hyuord : orderOf (⟨yu, hymem⟩ : rootsOfUnity k L) = q := by
+    rw [← orderOf_injective (rootsOfUnity k L).subtype Subtype.coe_injective,
+      Subgroup.coeSubtype, Subgroup.coe_mk, ← orderOf_units, IsUnit.unit_spec]
+    exact hy.eq_orderOf.symm
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:220]: Can you use [rootsOfUnity_le_of_dvd](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/RootsOfUnity/Basic.html#rootsOfUnity_le_of_dvd) to simplify this proof?

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean (hunk 6 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:224]: Good idea!

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:224]: Mmm, actually the problem remains: we need to prove that the cardinality of the set of `k`-th roots of unity is `k`, and for these we need a primitive `k`-th root, so I don't see how to simplify the proof using your `exists_ofOrder_eq_natCard` (that is anyway a good result to have).

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean (hunk 7 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean]: Not that much (because of something annoying about `PNat`, you probably don't want to know), but a little golf was possible, thanks!

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean (hunk 6 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:222]: Ah, OK; right! But you should be able to use the given elements to show that the order of `rootsOfUnity k L` is a multiple of both `p` and `q`, so of `k` (without working with `Subtype`s, just be using `xu` and `yu` and their orders in the unit group), and on the other hand, divides `k` by general facts.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:222]: We have [card_rootsOfUnity](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/RootsOfUnity/Basic.html#card_rootsOfUnity), which gives `≤`, but this should be good enough...

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:222]: This is essentially what I already do, but it can be more direct. I will have a look tomorrow, thanks for idea!

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 8]
```diff
@@ -189,6 +189,94 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
+  have hymem : yu ∈ rootsOfUnity k L := rootsOfUnity_le_of_dvd (dvd_lcm_right _ _) <|
+    IsPrimitiveRoot.mem_rootsOfUnity (by exact IsPrimitiveRoot.coe_units_iff.1 hy)
+  have hxuord : orderOf (⟨xu, hxmem⟩ : rootsOfUnity k L) = p := by
+    rw [← orderOf_injective (rootsOfUnity k L).subtype Subtype.coe_injective,
+      Subgroup.coeSubtype, Subgroup.coe_mk, ← orderOf_units]
+    exact hx.eq_orderOf.symm
+  have hyuord : orderOf (⟨yu, hymem⟩ : rootsOfUnity k L) = q := by
+    rw [← orderOf_injective (rootsOfUnity k L).subtype Subtype.coe_injective,
+      Subgroup.coeSubtype, Subgroup.coe_mk, ← orderOf_units]
+    exact hy.eq_orderOf.symm
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:218]:
```suggestion
  have hxuord : orderOf (⟨xu, hxmem⟩ : rootsOfUnity k L) = p := by
    rw [Subgroup.orderOf_mk, ← orderOf_units, hx.eq_orderOf]
  have hyuord : orderOf (⟨yu, hymem⟩ : rootsOfUnity k L) = q := by
    rw [Subgroup.orderOf_mk, ← orderOf_units, hy.eq_orderOf]
```
This is a bit more direct.

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM now.

**Comment by MichaelStollBayreuth** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
I've added `IsPrimitiveRoot.exists_pow_or_neg_mul_pow_of_pow_eq_one`: it is a more precise reformulation of `IsPrimitiveRoot.exists_neg_pow_mul_pow_of_pow_eq_one`. Can you have a quick look at it? Thanks!

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 9]
```diff
@@ -189,6 +189,110 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
+  · left
+    rw [heven.neg_one_pow, one_mul] at hr
+    convert hr using 1
+    nth_rewrite 2 [← Nat.div_add_mod r n]
+    rw [pow_add, pow_mul, hζ.pow_eq_one, one_pow, one_mul]
+  · right
+    rw [hodd.neg_one_pow, neg_one_mul] at hr
+    convert hr using 2
+    nth_rewrite 2 [← Nat.div_add_mod r n]
+    rw [pow_add, pow_mul, hζ.pow_eq_one, one_pow, one_mul]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:294]:
```suggestion
  rw [show ζ ^ (r % ↑n) = ζ ^ r from (IsPrimitiveRoot.eq_orderOf hζ).symm ▸ pow_mod_orderOf .., hr]
  rcases Nat.even_or_odd r with (h | h) <;> simp [h.neg_one_pow]
```

**Comment by MichaelStollBayreuth** [comment]
Looks good after the golf.

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 10]
```diff
@@ -189,6 +189,101 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
 #align is_cyclotomic_extension.finrank IsCyclotomicExtension.finrank
 
+variable {L} in
+/-- If `L` contains both a primitive `p`-th root of unity and `q`-th root of unity, and
+`Irreducible (cyclotomic (lcm p q) K)` (in particular for `K = ℚ`), then the `finrank K L` is at
+least `(lcm p q).totient`. -/
+theorem _root_.IsPrimitiveRoot.lcm_totient_le_finrank [FiniteDimensional K L] {p q : ℕ} {x y : L}
+    (hx : IsPrimitiveRoot x p) (hy : IsPrimitiveRoot y q)
+    (hirr : Irreducible (cyclotomic (Nat.lcm p q) K)) :
+    (Nat.lcm p q).totient ≤ FiniteDimensional.finrank K L := by
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:199]: This looks slightly strange to me: existence of a primitive p'th root and a primitive q'th root is the same as existence of a primitive `Nat.lcm p q`th root, so this theorem feels like it's the composite of two theorems, one saying that and the other saying that if there exists a primitive x'th root then (change all `Nat.lcm p q` to `x`). And why do you demand the primitive roots rather than just asserting their existence? They don't play any role in the other hypotheses or conclusion.

Comment (jcommelin) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:199]: Would it work to just pass around `\exists x, IsPrimitiveRoot x n`?

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:199]: Splitting the proof is surely a good idea, I am doing it.

Concerning the existence vs giving the witness, I guess this goes back to things like [IsPrimitiveRoot.card_rootsOfUnity'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/RootsOfUnity/Basic.html#IsPrimitiveRoot.card_rootsOfUnity'): if we refactor that file to use `∃ ζ, ...` then we will probably spot all places where we need to change it. I indeed think it is a good idea to use existence rather than the explicit witness (did I really ask to do the opposite? Sorry for that), but probably in another PR.

Comment (jcommelin) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:199]: Sounds good to me.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:199]: I've golfed the proof using the explicit root of unity of order the `lcm` provided in #11235. The proof is indeed much shorter now, thanks!

**Comment by riccardobrasca** [comment]
This is now ready for another round of reviews!

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 11]
```diff
@@ -189,6 +189,84 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
+  have : NeZero (l : K) := ⟨NeZero.natCast_ne l K⟩
+  rw [isRoot_cyclotomic_iff] at hlroot
+  obtain ⟨a, ha⟩ := hlroot.dvd_of_isCyclotomicExtension n hlzero.1
+  replace hlroot : x ^ (2 * (n : ℕ)) = 1 := by rw [ha, pow_mul, hlroot.pow_eq_one, one_pow]
+  obtain ⟨s, -, hs⟩ := hnegζ.eq_pow_of_pow_eq_one hlroot (by simp)
+  rw [neg_pow] at hs
+  exact ⟨s, hs.symm⟩
+
+/-- If `x` is a `k`-th root of unity in an `n`-th cyclotomic extension, where `n` is odd, and `ζ`
+is a primitive `n`-th root of unity, then there exist `r < n` such that `x = ζ^r` or `x = -ζ^r`. -/
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:260]:
```suggestion
is a primitive `n`-th root of unity, then there exists `r < n` such that `x = ζ^r` or `x = -ζ^r`. -/
```

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 12]
```diff
@@ -189,6 +189,84 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
+  have hlzero : NeZero l := ⟨fun h ↦ by simp [h] at hl⟩
+  have : NeZero (l : K) := ⟨NeZero.natCast_ne l K⟩
+  rw [isRoot_cyclotomic_iff] at hlroot
+  obtain ⟨a, ha⟩ := hlroot.dvd_of_isCyclotomicExtension n hlzero.1
+  replace hlroot : x ^ (2 * (n : ℕ)) = 1 := by rw [ha, pow_mul, hlroot.pow_eq_one, one_pow]
+  obtain ⟨s, -, hs⟩ := hnegζ.eq_pow_of_pow_eq_one hlroot (by simp)
+  rw [neg_pow] at hs
+  exact ⟨s, hs.symm⟩
+
+/-- If `x` is a `k`-th root of unity in an `n`-th cyclotomic extension, where `n` is odd, and `ζ`
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:259]:
```suggestion
/-- If `x` is a `k`-th root of unity in an `n`-th cyclotomic extension of ℚ, where `n` is odd, and `ζ`
```

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 13]
```diff
@@ -189,6 +189,84 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
+    exact hl.1 hr
+  replace key := (Nat.dvd_prime Nat.prime_two).1 (Nat.totient_le_one_dvd_two rpos key)
+  rcases key with (key | key)
+  · rw [key, mul_one] at hr
+    rw [← hr]
+    exact dvd_mul_of_dvd_right (_root_.dvd_lcm_left l ↑n) 2
+  · rw [key, mul_comm] at hr
+    simpa [← hr] using _root_.dvd_lcm_left _ _
+
+/-- If `x` is a `k`-th root of unity in an `n`-th cyclotomic extension, where `n` is odd, and `ζ`
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:239]:
```suggestion
/-- If `x` is a `k`-th root of unity in an `n`-th cyclotomic extension of ℚ, where `n` is odd, and `ζ`
```

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean (hunk 10 above)
Comment (faenuccio) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:199]: I know I am late to the game, but several of these results seem to hold beyond the case of cyclotomic extensions of fields (not all of them, I agree, but the above inequality holds more generally). I have tried to generalize the proof to e.g. integral domains, and everything works but  at one point (the devil in the details...) where things become a bit messy since one has to trace back all places where the field assumption was not really needed. What is the general philosophy?

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:199]: Note that `IsPrimitiveRoot.lcm_totient_le_finrank` (the inequality) does not assume the extension is cyclotomic. It is in this file because it uses cycolotomic extension in the proof.

Concerning the domain/field assumption, it seems to me that it is `IsCyclotomicExtension.finrank` that requires a field, and it can be trivial to generalize. I don't have much time now, but I can have a look tomorrow.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:199]: Mmm, already `IsPrimitiveRoot.powerBasis` wants a field. We may use [Algebra.adjoin.powerBasis'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Minpoly/IsIntegrallyClosed.html#Algebra.adjoin.powerBasis'), but it wants a noetherian ring. Maybe we can try the generalization in another PR?

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:199]: Here the goal is purely number theoretic: for example if `p=3`, then any unit in `ℤ[ζ₃]` is a root of unity (for example using Dirichlet... ok, this is maybe like using an atomic bomb, but still) and then we immediately (at least it is mathematically trivial to) get the list of the 6 units. And then we can prove kummer's lemma by hand.

File: Mathlib/Data/Nat/Totient.lean [hunk 14]
```diff
@@ -276,6 +276,9 @@ theorem totient_eq_one_iff : ∀ {n : ℕ}, n.totient = 1 ↔ n = 1 ∨ n = 2
     exact ⟨fun h => not_even_one.elim <| h ▸ totient_even this, by rintro ⟨⟩⟩
 #align nat.totient_eq_one_iff Nat.totient_eq_one_iff
 
+theorem totient_le_one_dvd_two {a : ℕ} (han : 0 < a) (ha : a.totient ≤ 1) : a ∣ 2 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Totient.lean:279]: Should this be `dvd_two_of_totient_le_one`? Right now it sounds like the totient divides something

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 15]
```diff
@@ -332,6 +332,13 @@ theorem IsCyclic.exists_monoid_generator [Finite α] [IsCyclic α] :
 #align is_cyclic.exists_monoid_generator IsCyclic.exists_monoid_generator
 #align is_add_cyclic.exists_add_monoid_generator IsAddCyclic.exists_addMonoid_generator
 
+@[to_additive]
+lemma IsCyclic.exists_ofOrder_eq_natCard [h : IsCyclic α] : ∃ g : α, orderOf g = Nat.card α := by
+  obtain ⟨g, hg⟩ := h.exists_generator
+  use g
+  rw [← card_zpowers g, (eq_top_iff' (zpowers g)).mpr hg]
+  exact (Nat.card_congr (Equiv.Set.univ α).symm).symm
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:340]: Do the `symm`s cancel out?

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 16]
```diff
@@ -189,6 +189,85 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
+  rcases Nat.eq_zero_or_pos p with (rfl | hppos)
+  · simp
+  rcases Nat.eq_zero_or_pos q with (rfl | hqpos)
+  · simp
+  let z := x ^ (p / factorizationLCMLeft p q) * y ^ (q / factorizationLCMRight p q)
+  let k := PNat.lcm ⟨p, hppos⟩ ⟨q, hqpos⟩
+  have : IsPrimitiveRoot z k := hx.pow_mul_pow_lcm hy hppos.ne' hqpos.ne'
+  haveI := IsPrimitiveRoot.adjoin_isCyclotomicExtension K this
+  convert Submodule.finrank_le (Subalgebra.toSubmodule (adjoin K {z}))
+  replace hirr : Irreducible (cyclotomic k K) := hirr
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:209]: This is changing the `Nat.lcm` to `PNat.lcm` and using `k`? I'd personally prefer something more explicit than `replace`

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 17]
```diff
@@ -189,6 +189,85 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
+variable (n) in
+/-- If a `n`-th cyclotomic extension of `ℚ` contains a primitive `l`-th root of unity, then
+`l ∣ 2 * n`. -/
+theorem _root_.IsPrimitiveRoot.dvd_of_isCyclotomicExtension [NumberField K]
+    [IsCyclotomicExtension {n} ℚ K] {ζ : K} {l : ℕ} (hζ : IsPrimitiveRoot ζ l) (hl : l ≠ 0) :
+    l ∣ 2 * n := by
+  have hl : NeZero l := ⟨hl⟩
+  have hroot := IsCyclotomicExtension.zeta_spec n ℚ K
+  have key := IsPrimitiveRoot.lcm_totient_le_finrank hζ hroot (cyclotomic.irreducible_rat
+    <| Nat.lcm_pos (Nat.pos_of_ne_zero hl.1) n.2)
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:221]:
```suggestion
  have key := IsPrimitiveRoot.lcm_totient_le_finrank hζ hroot
    (cyclotomic.irreducible_rat <| Nat.lcm_pos (Nat.pos_of_ne_zero hl.1) n.2)
```

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 18]
```diff
@@ -189,6 +189,85 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
+    rw [← hr]
+    exact dvd_mul_of_dvd_right (_root_.dvd_lcm_left l ↑n) 2
+  · rw [key, mul_comm] at hr
+    simpa [← hr] using _root_.dvd_lcm_left _ _
+
+/-- If `x` is a `k`-th root of unity in an `n`-th cyclotomic extension of `ℚ`, where `n` is odd,
+and `ζ` is a primitive `n`-th root of unity, then there exist `r` such that `x = (-1)^r * ζ^r`. -/
+theorem _root_.IsPrimitiveRoot.exists_neg_pow_mul_pow_of_pow_eq_one [NumberField K]
+    [IsCyclotomicExtension {n} ℚ K] (hno : Odd (n : ℕ)) {ζ x : K} {k : ℕ+}
+    (hζ : IsPrimitiveRoot ζ n) (hx : x ^ (k : ℕ) = 1) : ∃ (r : ℕ), x = (-1) ^ r * ζ ^ r :=  by
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:243]:
```suggestion
    (hζ : IsPrimitiveRoot ζ n) (hx : x ^ (k : ℕ) = 1) : ∃ r : ℕ, x = (-1) ^ r * ζ ^ r :=  by
```

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 19]
```diff
@@ -189,6 +189,85 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
+  rw [neg_pow] at hs
+  exact ⟨s, hs.symm⟩
+
+/-- If `x` is a `k`-th root of unity in an `n`-th cyclotomic extension of `ℚ`, where `n` is odd,
+and `ζ` is a primitive `n`-th root of unity, then there exists `r < n` such that
+`x = ζ^r` or `x = -ζ^r`. -/
+theorem _root_.IsPrimitiveRoot.exists_pow_or_neg_mul_pow_of_pow_eq_one [NumberField K]
+    [IsCyclotomicExtension {n} ℚ K] (hno : Odd (n : ℕ)) {ζ x : K} {k : ℕ+}
+    (hζ : IsPrimitiveRoot ζ n) (hx : x ^ (k : ℕ) = 1) :
+    ∃ (r : ℕ), r < n ∧ (x = ζ ^ r ∨ x = -ζ ^ r) :=  by
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:265]:
```suggestion
    ∃ r : ℕ, r < n ∧ (x = ζ ^ r ∨ x = -ζ ^ r) :=  by
```

File: Mathlib/RingTheory/RootsOfUnity/Basic.lean [hunk 20]
```diff
@@ -478,6 +478,15 @@ protected theorem not_iff : ¬IsPrimitiveRoot ζ k ↔ orderOf ζ ≠ k :=
     fun h hk => h.symm <| hk.unique <| IsPrimitiveRoot.orderOf ζ⟩
 #align is_primitive_root.not_iff IsPrimitiveRoot.not_iff
 
+theorem pow_mul_pow_lcm {ζ' : M} {k' : ℕ} (hζ : IsPrimitiveRoot ζ k) (hζ' : IsPrimitiveRoot ζ' k')
+    (hk : k ≠ 0) (hk' : k' ≠ 0) : IsPrimitiveRoot
+    (ζ ^ (k / Nat.factorizationLCMLeft k k') * ζ' ^ (k' / Nat.factorizationLCMRight k k'))
+    (Nat.lcm k k') := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/RootsOfUnity/Basic.lean:484]: I think this is more readable:
```suggestion
    (hk : k ≠ 0) (hk' : k' ≠ 0) :
    IsPrimitiveRoot
      (ζ ^ (k / Nat.factorizationLCMLeft k k') * ζ' ^ (k' / Nat.factorizationLCMRight k k'))
      (Nat.lcm k k') := by
```

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean (hunk 16 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean]: Done

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 21]
```diff
@@ -189,6 +189,85 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
     (zeta_spec n K L).minpoly_eq_cyclotomic_of_irreducible hirr, natDegree_cyclotomic]
 #align is_cyclotomic_extension.finrank IsCyclotomicExtension.finrank
 
+variable {L} in
+/-- If `L` contains both a primitive `p`-th root of unity and `q`-th root of unity, and
+`Irreducible (cyclotomic (lcm p q) K)` (in particular for `K = ℚ`), then the `finrank K L` is at
+least `(lcm p q).totient`. -/
+theorem _root_.IsPrimitiveRoot.lcm_totient_le_finrank [FiniteDimensional K L] {p q : ℕ} {x y : L}
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:196]: I think it makes sense to end the namespace `IsCyclotomicExtension` before your additions and change to `namespace IsPrimitiveRoot`, so as to avoid having to prefix everything with `_root_.IsPrimitiveRoot.`.

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 22]
```diff
@@ -189,6 +189,85 @@ theorem finrank (hirr : Irreducible (cyclotomic n K)) : finrank K L = (n : ℕ).
...
+    rw [← hr]
+    exact dvd_mul_of_dvd_right (_root_.dvd_lcm_left l ↑n) 2
+  · rw [key, mul_comm] at hr
+    simpa [← hr] using _root_.dvd_lcm_left _ _
+
+/-- If `x` is a `k`-th root of unity in an `n`-th cyclotomic extension of `ℚ`, where `n` is odd,
+and `ζ` is a primitive `n`-th root of unity, then there exist `r` such that `x = (-1)^r * ζ^r`. -/
+theorem _root_.IsPrimitiveRoot.exists_neg_pow_mul_pow_of_pow_eq_one [NumberField K]
+    [IsCyclotomicExtension {n} ℚ K] (hno : Odd (n : ℕ)) {ζ x : K} {k : ℕ+}
+    (hζ : IsPrimitiveRoot ζ n) (hx : x ^ (k : ℕ) = 1) : ∃ r : ℕ, x = (-1) ^ r * ζ ^ r :=  by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:243]: Is `(-1) ^ r * ζ ^ r` better than `(-ζ) ^ r` (which is what I would tend to use)?

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean (hunk 21 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:196]: I've moved the results to the following namespace.

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 23]
```diff
@@ -332,6 +332,13 @@ theorem IsCyclic.exists_monoid_generator [Finite α] [IsCyclic α] :
 #align is_cyclic.exists_monoid_generator IsCyclic.exists_monoid_generator
 #align is_add_cyclic.exists_add_monoid_generator IsAddCyclic.exists_addMonoid_generator
 
+@[to_additive]
+lemma IsCyclic.exists_ofOrder_eq_natCard [h : IsCyclic α] : ∃ g : α, orderOf g = Nat.card α := by
```
Comment (AntoineChambert-Loir) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:336]: Could you convert that to an iff?

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 24]
```diff
@@ -197,6 +217,68 @@ section Norm
...
+  rcases key with (key | key)
+  · rw [key, mul_one] at hr
+    rw [← hr]
+    exact dvd_mul_of_dvd_right (_root_.dvd_lcm_left l ↑n) 2
+  · rw [key, mul_comm] at hr
+    simpa [← hr] using _root_.dvd_lcm_left _ _
+
+/-- If `x` is a `k`-th root of unity in an `n`-th cyclotomic extension of `ℚ`, where `n` is odd,
+and `ζ` is a primitive `n`-th root of unity, then there exist `r` such that `x = (-1)^r * ζ^r`. -/
+theorem exists_neg_pow_of_pow_eq_one [NumberField K] [IsCyclotomicExtension {n} ℚ K]
```
Comment (AntoineChambert-Loir) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:252]: Isn't there a predicate for being of finite order? or for being a root of unity?

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean [hunk 25]
```diff
@@ -197,6 +217,68 @@ section Norm
...
+    (hno : Odd (n : ℕ)) {ζ x : K} {k : ℕ+} (hζ : IsPrimitiveRoot ζ n) (hx : x ^ (k : ℕ) = 1) :
+    ∃ r : ℕ, x = (-ζ) ^ r :=  by
```
Comment (AntoineChambert-Loir) [inline Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:254]: This is not the statement of the docstring

File: Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean (hunk 24 above)
Comment (AntoineChambert-Loir) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean:252]: `orderOf x \ne 0` should work, but that's not very nice

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/PrimitiveRoots.lean]: We have `isOfFinOrder`, I've modified the statement to use it.

**Comment by Ruben-VandeVelde** [comment]
maintainer merge

**Comment by jcommelin** [comment]
> We add `IsPrimitiveRoot.exists_neg_pow_mul_pow_of_pow_eq_one`: if `x` is a `k`-th root of unity in an `n`-th cyclotomic extension, where `n` is odd, and `ζ` is a primitive `n`-th root of unity, then there exist `r` such that `x = (-1)^r * ζ^r`.

Please update the top post, since the name `IsPrimitiveRoot.exists_neg_pow_mul_pow_of_pow_eq_one` is no longer part of the diff.

bors d+
